US08604074B2
Step 1. Synthesis of 3,6-Dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole
Following a literature procedure (Asso, V.; Ghilardi, E.; Bertini, S.; Digiacomo, M.; Granchi, C.; Minutolo, F.; Rapposelli, S.; Bortolato, A.; Moro, S. Macchia, M. Chem Med Chem, 2008, 3, 1530-1534) powdered KOH (0.103 g, 1.85 mmol) was added to a solution of 3,6-dibromocarbazole (0.500 g, 1.54 mmol) in DMF (1.5 mL) at ambient temperature and stirred for 30 min until dissolved. Epibromohydrin (0.32 mL, 3.8 mmol) was added via syringe and the reaction was stirred at room temperature overnight. Upon completion, the solution was partitioned between EtOAc and H2O. The aqueous layer was washed 3× with EtOAc, and the combined organics were washed with saturated aqueous NaCl, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was recrystallized from EtOAc/Hexane to afford the desired product (389 mg, 66%).

reactant | KOH | 1.85 mmol, 0.103 g | [OH-].[K+]
reactant | 3,6-dibromocarbazole | 1.54 mmol, 0.500 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | Epibromohydrin | 3.8 mmol, 0.32 mL | C(Br)C1CO1 | C3H5BrO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3,6-Dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole | 389 mg, 66% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1OC1 | C15H11Br2NO
